US04441913
15.2 g of 2-benzyloxyethanol and 10.6 g of triethylamine were dissolved in 150 ml of toluene, and the solution was cooled to -5° C. A solution of 21.6 g of 2-bromopropionylbromide in 30 ml of toluene was added dropwise thereto at -5° to 0° C. with stirring. The reaction mixture was further maintained at room temperature for two hours. The mixture was then washed successively with 1% strength by weight sodium hydroxide solution and water, and the toluene solution was then dried and filtered. The toluene was distilled off under reduced pressure, and the end product of 2-benzyloxyethyl-2-bromopropionate was obtained in a yield of 26.7 g (nD20.5 1.5182)

reactant | 2-benzyloxyethanol | 15.2 g | C(C1=CC=CC=C1)OCCO | C9H12O2
reactant | triethylamine | 10.6 g | C(C)N(CC)CC | C6H15N
reactant | 2-bromopropionylbromide | 21.6 g | BrC(C(=O)Br)C | C3H4Br2O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-benzyloxyethyl-2-bromopropionate | C(C1=CC=CC=C1)OCCOC(C(C)Br)=O | C12H15BrO3
